US06603008B1
2-(4-Bromo-2-chlorophenyl)-1,3-oxazole (Step 3).
To a stirred solution of 4-bromo-2-chloro-N-(2-oxoethyl)benzamide (1.00 g, 3.617 mmol) in CH2Cl2 (30 mL) were added triphenylphosphine (1.90 g, 7.234 mmol), iodine (1.84 g, 7.234 mmol) and triethylamine (2.0 mL, 14.47 mmol) at room temperature. After 24 hour, the mixture was washed with water (20 mL), dried over MgSO4. Removal of the solvent, gave an oily recidue, which was purified by flash chromatography eluting with ethyl acetate/hexane (1/5) to give title compound (0.185 g, 20% yield).

reactant | 4-bromo-2-chloro-N-(2-oxoethyl)benzamide | 3.617 mmol, 1.00 g | BrC1=CC(=C(C(=O)NCC=O)C=C1)Cl | C9H7BrClNO2
reactant | triphenylphosphine | 7.234 mmol, 1.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 7.234 mmol, 1.84 g | II | I2
reactant | triethylamine | 14.47 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromo-2-chlorophenyl)-1,3-oxazole | 0.185 g, 20% yield | BrC1=CC(=C(C=C1)C=1OC=CN1)Cl | C9H5BrClNO
